US09227971B2
Step 2: benzyl 1-(5-bromopyridin-2-yl)cyclopropylcarbamate
At 0° C., to the mixture of 1-(5-bromopyridin-2-yl)cyclopropanamine (1.07 g, 5.0 mmol), triethylamine (766 ul, 5.5 mmol) was added benzyl chloroformate (785 ul, 5.5 mmol). The resulting mixture was allowed to stir at it for 1 h. After work up, the crude product was purified by column chromatography on SiO2.

reactant | 1-(5-bromopyridin-2-yl)cyclopropanamine | 5.0 mmol, 1.07 g | BrC=1C=CC(=NC1)C1(CC1)N | C8H9BrN2
reactant | triethylamine | 5.5 mmol, 766 ul | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 5.5 mmol, 785 ul | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | benzyl 1-(5-bromopyridin-2-yl)cyclopropylcarbamate | BrC=1C=CC(=NC1)C1(CC1)NC(OCC1=CC=CC=C1)=O | C16H15BrN2O2
